US08232278B2
Synthesis of 2-amino-6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidin-4(3H)thione
A suspension of 2-amino-6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidin-4(3H)one (100 mg, 0.34 mmol) and phosphorus pentasulfide (163 mg, 0.37 mmol) in pyridine (10 ml) was refluxed for 4 hours. The solvents were evaporated in vacuo. The residue was re-suspended in a small amount of water and filtered off, yielding the title compound which was used without any further purification and which was characterised as follows: MS (m/z): 315 ([M+H]+, 100).

reactant | 2-amino-6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidin-4(3H)one | 0.34 mmol, 100 mg | NC=1NC(C2=C(N1)C=CC(=N2)C2=CC(=C(C=C2)OC)OC)=O | C15H14N4O3
reactant | phosphorus pentasulfide | 0.37 mmol, 163 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-amino-6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidin-4(3H)thione | NC=1NC(C2=C(N1)C=CC(=N2)C2=CC(=C(C=C2)OC)OC)=S | C15H14N4O2S
